2116-03-11 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PCI revealed 60% occlusion of LAD and total occlusion of RCA. RCA was
   successfully stented with a bare metal stent
   - started bb, asa, statin, clopidro
   - Stable overnight with a few episodes of non-sustained VT and one
   episode of SVT for 20s. EKG during these episode was unchanged from
   previous.
   - post pranidial chest discomfort, unlike previous chest pain. Improved
   w Maalox
   - anxious
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-11**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 90 (74 - 111) bpm
   BP: 123/92(98) {116/86(96) - 134/97(104)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    571 mL
                                                                    179 mL
   PO:
             TF:
   IVF:
                                                                    571 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    700 mL
   Urine:
                                                                  2,075 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,504 mL
                                                                   -521 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink. Oral
   mucosa with dried blood from site of tooth extraction. Xanthalomas
   present on the superior eyelids bilaterally.
   NECK: Supple with JVP to earlobe.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  Small ooze from cath site.
   Small hematoma stable.
   SKIN: No stasis dermatitis, ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   395 K/uL
   14.2 g/dL
   106 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.3 mEq/L
   15 mg/dL
   100 mEq/L
   138 mEq/L
   39.9 %
   17.3 K/uL
        [image002.jpg]
                             [**2116-3-10**]  08:31 PM
   WBC
   17.3
   Hct
   39.9
   Plt
   395
   Cr
   0.9
   TropT
   19.91
   Glucose
   106
   Other labs: CK / CKMB / Troponin-T:5654/>500/19.91, Ca++:9.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Pt is a 50 yo male with inferolateral STEMI involving RCA and LAD s/p
   PCI with BMS placement.
   # Myocardial Infarction: Now s/p infero-posterior MI. Remains stable
   following the PCI. His hemodynamics suggest RV as well as LV
   dysfunction (elevated end RV pressure and elevated PCWP), but he is not
   in overt CHF. BP tolerated BB overnight.  CK was notably elevated to 5,
   000 range with Trop 19. Both of these are trending down this am.
   - Start ACE today->captopril so can titrate throughout day today.
   Likely d/c on lisinopril.
   - Continue ASA, clopidogrel, statin(atorvastatin 80mg), nicotine patch
   - Given tachycardia will increase beta blocker as BP tolerates
   - TTE pending
   - Fasting lipid profile pending
   - HgbA1c pending
   # Leucocytosis: stable. Likely reflects inflammation associated with
   his MI and intervention. Will monitor
   # Normocytic anemia: Stable. Will monitor.
   # FEN: NPO overnight
   # ACCESS: PIVs
   # PROPHYLAXIS: SC heparin, bowel regimen
   # CODE: Presumed full
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-3-10**] 03:00 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: PO diet
   Communication:  Comments:
   Code status: Full code
   Disposition: in CCU until stable
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 6668**].
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy. I have discussed
   this plan with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Doing reasonably well, but still a bit tachycardic.  No chest pain or
   dyspnea.  Has not been out of bed yet.    ECG with inferior Q waves,
   evolving STE/TWI.  Peak CK ~5000
   Plan:
   1. Uptitrate BB
   2. ASA, Plavix, high-dose statin
   3. Nicotine patch
   4. Echocardiogram
   5. f/u lipid profile
   6. ICU care for now [**1-13**] massive MI with RVMI physiology.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2116-3-11**] 10:50 ------

2116-03-12 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-11**]:
   - Started Captopril 6.25mg Q6h
   - Increased metoprolol to 25mg [**Hospital1 7**]
   - Lipids HDL 39 LDL 99 TG 180, likely decreased in the setting acute MI
   - Increased metoprolol to 25mg TID at 4pm given persistent tachycardia
   - improved to 80's
   - Wrote for PT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-12**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 77 (76 - 101) bpm
   BP: 87/55(62) {87/55(62) - 128/90(98)} mmHg
   RR: 18 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,375 mL
                  PO:
                                                                  1,160 mL
                  TF:
   IVF:
                                                                    215 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                      0 mL
   Urine:
                                                                  3,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,725 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink. Oral
   mucosa with dried blood from site of tooth extraction. Xanthalomas
   present on the superior eyelids bilaterally.
   NECK: Supple with JVP to earlobe.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  Small ooze from cath site.
   Small hematoma stable.
   SKIN: No stasis dermatitis, ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   356 K/uL
   14.2 g/dL
   103 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.3 mEq/L
   17 mg/dL
   98 mEq/L
   137 mEq/L
   39.3 %
   13.7 K/uL
                             [**2116-3-10**]  08:31 PM
                             [**2116-3-11**]  04:16 AM
                             [**2116-3-11**]  02:56 PM
   WBC
   17.3
   15.1
   13.7
   Hct
   39.9
   39.1
   39.3
   Plt
   395
   372
   356
   Cr
   0.9
   0.9
   TropT
   19.91
   13.99
   9.45
   Glucose
   106
   103
   Other labs: CK / CKMB / Troponin-T:[**2047**]/123/9.45, Ca++:9.3 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   Imaging: TTE:  The left atrium is normal in size. The estimated right
   atrial pressure is 0-5 mmHg.There is mild regional left ventricular
   systolic dysfunction with severe inferior hypokinsis and mild mid
   inferolateral hypokinsis. Overall left ventricular systolic function is
   low normal (LVEF 50-55%). Transmitral Doppler and tissue velocity
   imaging are consistent with normal LV diastolic function. Right
   ventricular chamber size is normal with focal basal free wall
   hypokinesis. The aortic valve leaflets (3) appear structurally normal
   with good leaflet excursion and no aortic regurgitation. The mitral
   valve leaflets are mildly thickened. Trivial mitral regurgitation is
   seen. The pulmonary artery systolic pressure could not be determined.
   There is a trivial/physiologic pericardial effusion. There is an
   anterior space which most likely represents a fat pad.
   IMPRESSION: Mild regional left ventricular systolic dysfunction
   consistent with coronary artery disease. Mild basal right ventricular
   freewall hypokinesis.
   Assessment and Plan
   Pt is a 50 yo male with inferolateral STEMI involving RCA and LAD s/p
   PCI with BMS placement.
   # Myocardial Infarction: Now s/p infero-posterior MI. Remains stable
   following the PCI. His hemodynamics suggest RV as well as LV
   dysfunction (elevated end RV pressure and elevated PCWP), but he is not
   in overt CHF. BP tolerated BB/ACE overnight, but this morning is a bit
   low.  CK continues to improve.
   - Continue ASA, clopidogrel, atorvastatin 80mg, captopril and nicotine
   patch. Transition to lisinopril on d/c
   - If BP persistently low in am, then would decrease BB to 12.5 TID.
   (increased amount to 25 and freq to TID yesterday)
   # Leucocytosis: stable. Likely reflects inflammation associated with
   his MI and intervention. Trending down.
   # Normocytic anemia: Stable.
   # FEN: NPO overnight
   # ACCESS: PIVs
   # PROPHYLAXIS: SC heparin, bowel regimen
   # CODE: Presumed full
   # DISPO: Transfer to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-3-10**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy. I have discussed
   this plan with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Doing well
   Plan:
   1. Advance beta blockade
   2. Continue routine post-MI care
   3. PT consult
   4. transfer to StepDown unit
   [**Unit Number **]. F/u Chilazi/[**Hospital3 2794**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2116-3-12**] 10:58 ------